US05616599
46(a) 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-propionylimidazole-5-carbonitrile
Following a procedure similar to that described in Example 45(a) but using 0.923 g of 2-butyl-4-propionylimidazole-5-carbonitrile (prepared as described in Preparation 25), 1.56 g of t-butyl 4'-(bromomethyl)biphenyl-2-carboxylate and 196 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) in 20 ml of N,N-dimethylacetamide, 1.84 g of the title compound were obtained as a viscous oil.

reactant | 2-butyl-4-propionylimidazole-5-carbonitrile | 0.923 g | C(CCC)C=1NC(=C(N1)C(CC)=O)C#N | C11H15N3O
reactant | t-butyl 4'-(bromomethyl)biphenyl-2-carboxylate | 1.56 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
reactant | sodium hydride | 196 mg | [H-].[Na+]
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 1-[(2'-t-Butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-propionylimidazole-5-carbonitrile | 1.84 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C#N)C(CC)=O)CCCC | C29H33N3O3
